US07820662B2
trans-{4-[8-Amino-(4-methyl-2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methanol
A mixture of [4-(8-amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methanol (500 mg, 1.34 mmol), 4-methyl-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)quinoline (510.2 mg, 1.48 mmol), and cesium carbonate (875 mg, 2.69 mmol) were dissolved in a 1:1 mixture of 1,2-dimethoxyethane and water (10 mL). The reaction was degassed with nitrogen, then charged with tetrakis(triphenylphosphine)palladium(0) (155 mg, 0.13 mmol). The reaction was degassed once again, then the mixture was heated at 75° C. for 18 h. The mixture was cooled to rt, was diluted with dichloromethane and washed with brine. The organic extract was dried over sodium sulfate, filtered and concentrated in vacuo. The yellow residue was purified by a silica gel chromatography [Jones Flashmaster; 20 g column; eluted with 100% chloroform to 4% MeOH/chloroform to 4% (7N ammonia/MeOH)/chloroform] to give the desired product as a yellow solid. The product was contaminated with PPh3 (0.053 equiv by 1H NMR) and pinacol (0.549 equiv by 1H NMR). The product was further purified by an acid-base aqueous work-up. The yellow solid was taken up in dichloromethane (30 mL), then, the desired product was taken up in an aqueous layer with 1N aqueous HCl (30 mL). The acidic aqueous layer was washed with dichloromethane, then basified with solid sodium bicarbonate until ˜pH 9 to 10. The basic aqueous layer was extracted with dichloromethane, then twice with chloroform. The organic extracts were combined, dried over sodium sulfate, filtered, concentrated in vacuo and dried in an oven for 18 h to give the desired product as a yellow solid; 1H NMR (d6-DMSO, 400 Hz) δ 8.30 (m, 2H), 8.23 (d, J=1.6 Hz, 1H), 8.20 (d, J=8.8 Hz, 1H), 8.07 (s, 1H), 7.92 (dd, J=8.8, 2.0 Hz, 1H), 7.70 (d, J=5.2 Hz, 1H), 7.57 (m, 2H), 7.51 (m, 1H), 7.09 (d, J=5.6 Hz, 1H), 6.19 (br s, 2H), 3.31 (s, 3H), 3.12 (m, 1H), 2.81 (s, 3H), 2.03 (m, 2H), 1.88 (m, 2H), 1.67 (m, 2H), 1.49 (m, 1H), 1.16 (m, 2H); MS (ES+): m/z 464.03 (30) [MH+], 465.02 (10) [MH+2], 232.90 (100) [M-231]; tR(Polar—5 min/openlynx) 2.20 min.

reactant | [4-(8-amino-1-iodoimidazo[1,5-a]pyrazin-3-yl)cyclohexyl]methanol | 1.34 mmol, 500 mg | NC=1C=2N(C=CN1)C(=NC2I)C2CCC(CC2)CO | C13H17IN4O
reactant | 4-methyl-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)quinoline | 1.48 mmol, 510.2 mg | CC1=CC(=NC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C22H24BNO2
reactant | cesium carbonate | 2.69 mmol, 875 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.13 mmol, 155 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | trans-{4-[8-Amino-(4-methyl-2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]cyclohexyl}methanol | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C(=CC(=NC1=C2)C2=CC=CC=C2)C)[C@@H]2CC[C@H](CC2)CO | C29H29N5O
